US08227473B2
Step 1: 3-(4-Methylpiperazine-1-carbonyl)-7-oxa-bicyclo[2,2,1]heptane-2-carbonyl chloride (1)
To an ice-cold solution of 3-(4-methylpiperazine-1-carbonyl)-7-oxa-bicyclo[2,2,1]-heptane-2-carboxylic acid (938 mg, 3.5 mmole) in methylene chloride (30 mL) was added thionyl chloride (1 mL) followed by a few drops of DMF. After stirring at ice-cold temperature for 30 min, the ice-bath was removed and stirring continued at room temperature overnight. The excess thionyl chloride was removed using oil-free vacuum pump at −50° C. and to the residue was added methylene chloride (10 mL). The resulted thin slurry of 1 was used as such in the next reaction.

reactant | 3-(4-methylpiperazine-1-carbonyl)-7-oxa-bicyclo[2,2,1]-heptane-2-carboxylic acid | 3.5 mmole, 938 mg | CN1CCN(CC1)C(=O)C1C(C2CCC1O2)C(=O)O | C13H20N2O4
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
product | 3-(4-Methylpiperazine-1-carbonyl)-7-oxa-bicyclo[2,2,1]heptane-2-carbonyl chloride | CN1CCN(CC1)C(=O)C1C(C2CCC1O2)C(=O)Cl | C13H19ClN2O3
